*******
.subckt 1206_15412085A3060 1 2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2382
+ RS=1.6930
+ IKF=10.075E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*********
.subckt 1206_15412094A3060 1 2
D1 1 2 led
.MODEL led D
+ IS=18.238E-15
+ N=1.6368
+ RS=1.3757
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*********














































